US07932271B2
N-[4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]methanesulfonamide
Under ice cooling, methanesulfonyl chloride (12 μl, 0.157 mmol) was added to a methylene chloride (5 ml) solution of [4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]amine (54 mg, 0.131 mmol) and pyridine (16 μl, 0.197 mmol). The resulting mixture was stirred at room temperature for 7 hours, followed by the addition of pyridine (16 μl, 0.197 mmol) and methanesulfonyl chloride (12 μl, 0.157 mmol). After the reaction mixture was stirred at room temperature for 17 hours, pyridine (16 μl, 0.197 mmol) and methanesulfonyl chloride (12 μl, 0.157 mmol) were added thereto. The resulting mixture was stirred at room temperature for 2 hours and then, pyridine (16 μl, 0.197 mmol) and methanesulfonyl chloride (12 μl, 0.157 mmol) were added thereto. After the resulting mixture was stirred at room temperature for 21 hours, pyridine (16 μl, 0.197 mmol) and methanesulfonyl chloride (12 μl, 0.157 mmol) were added thereto. The resulting mixture was stirred at room temperature for 2 hour and then, concentrated under reduced pressure. To the residue thus obtained was added ethyl acetate. The resulting mixture was washed with a saturated aqueous solution of sodium bicarbonate, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate (=2:1) eluate was concentrated under reduced pressure to give the title compound (54 mg, 0.110 mmol, 84%) as a white solid. The resulting white solid was washed with hexane-ether, and collected by filtration to afford the title compound as a white powder.

reactant | methanesulfonyl chloride | 0.157 mmol, 12 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
reactant | [4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]amine | 0.131 mmol, 54 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC(=NC=C1F)N)C1=C(C=CC(=C1)F)F | C18H12ClF3N2O2S
reactant | pyridine | 0.197 mmol, 16 μl | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 0.197 mmol, 16 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.157 mmol, 12 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.197 mmol, 16 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.157 mmol, 12 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.197 mmol, 16 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.157 mmol, 12 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 0.197 mmol, 16 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.157 mmol, 12 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]methanesulfonamide | 0.110 mmol, 54 mg, 84% | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC(=NC=C1F)NS(=O)(=O)C)C1=C(C=CC(=C1)F)F | C19H14ClF3N2O4S2
